US09085555B2
B. (2S,4R)-2-(3-Bromo-5-carboxy-phenylcarbamoyl)-4-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of (2S,4R)-2-(3-bromo-5-methoxycarbonyl-phenylcarbamoyl)-4-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester (480 mg, 1.08 mmol) in MeOH (10 mL), cooled to 0° C. was added LiOH.H2O (271 mg, 6.47 mmol) and the resulting solution was allowed to reach RT and stirred for 5 h. MeOH was concentrated and the residue was diluted in CH2Cl2, HCl 1 M was added (pH=1) and the layers were separated. The aqueous layer was back extracted twice with CH2Cl2 and the combined organic layers were dried over Na2SO4, filtered and concentrated to give the desired material which was used without further purification in the next step. MS (LC-MS): 453.0/455.0 [M+Na]+, 375.1/377.1 [MH−tBu]+, 331.1/333.1 [MH−Boc]+, 429.0/431.0 [M−H]−; tR (HPLC conditions a): 3.27 min.

reactant | (2S,4R)-2-(3-bromo-5-methoxycarbonyl-phenylcarbamoyl)-4-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.08 mmol, 480 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)F)C(NC1=CC(=CC(=C1)C(=O)OC)Br)=O | C18H22BrFN2O5
reactant | LiOH.H2O | 6.47 mmol, 271 mg | O[Li].O
solvent | MeOH | 10 mL | CO | CH4O
product | (2S,4R)-2-(3-Bromo-5-carboxy-phenylcarbamoyl)-4-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)F)C(NC1=CC(=CC(=C1)C(=O)O)Br)=O | C17H20BrFN2O5
